US07211595B2
Diethyl (2E)-3-(3-chlorophenyl)-2-pentenedioate
A mixture of diethyl glutaconate (10.0 g. 53.7 mmol), 3-chloroiodobenzene (11.5 g, 48.2 mmol), sodium acetate (4.40 g, 53.7 mmol) and palladium acetate (1.1 g, 4.9 mmol) in DMF (30 mL) was heated to 100° C., stirred for 21 hours, cooled to room temperature, poured into water, filtered, and extracted with ethyl acetate. The combined extracts were washed with water and brine, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel 8:1 hexanes/ethyl acetate to provide 2.88 g (20%) of the desired product. MS (DCI/NH3) m/z 297 (M+H)+; 1H NMR (CDCl3) δ 7.43 (m, 2H), 7.32 (m, 3H), 6.26 (s, 2H), 4.19 (m, 4H), 1.21 (t, 3H), 1.31 (t, 3H).

reactant | diethyl glutaconate | 53.7 mmol, 10.0 g | C(C=CCC(=O)OCC)(=O)OCC | C9H14O4
reactant | 3-chloroiodobenzene | 48.2 mmol, 11.5 g | ClC=1C=C(C=CC1)I | C6H4ClI
reactant | sodium acetate | 53.7 mmol, 4.40 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 4.9 mmol, 1.1 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Diethyl (2E)-3-(3-chlorophenyl)-2-pentenedioate | 2.88 g, 20% | ClC=1C=C(C=CC1)/C(=C/C(=O)OCC)/CC(=O)OCC | C15H17ClO4
